US07691882B2
2-(3-Fluoro-phenoxy)-5-(2-nitro-ethyl)-pyridine
To an acetic acid (20 mL) solution of 6-(3-fluoro-phenoxy)-pyridine-3-carbaldehyde (2.47 g, 11.4 mmol) described in Manufacturing Example 71-1-2 was added nitromethane (3.09 mL, 57.0 mmol) and ammonium acetate (1.76 g, 22.8 mmol), which was stirred for 6 hours at 100° C. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure. To a dimethyl sulfoxide (35 mL) and acetic acid (5 mL) solution of the residue was added sodium borohydride (681 mg, 17.1 mmol), which was stirred for 40 minutes at room temperature. Sodium hydrogencarbonate and water were added to the reaction mixture at room temperature while cooling appropriately, which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (1.96 g, 66%).

reactant | 6-(3-fluoro-phenoxy)-pyridine-3-carbaldehyde | 11.4 mmol, 2.47 g | FC=1C=C(OC2=CC=C(C=N2)C=O)C=CC1 | C12H8FNO2
reactant | nitromethane | 57.0 mmol, 3.09 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 22.8 mmol, 1.76 g | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 17.1 mmol, 681 mg | [BH4-].[Na+]
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 35 mL | CS(=O)C | C2H6OS
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-(3-Fluoro-phenoxy)-5-(2-nitro-ethyl)-pyridine | 1.96 g, 66% | FC=1C=C(OC2=NC=C(C=C2)CC[N+](=O)[O-])C=CC1 | C13H11FN2O3
